US05055458
A solution of 9-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxy)-6-chloro-2-formamidopurine (280 mg, 0.51 mmol) in 80% aqueous formic acid (5 ml) was stirred at 120° C. for 3 hours. The acid was evaporated, the residue dissolved in methanol (1 ml) and 0.88 ammonia (1 ml) and stirred for 1 hour at 20° C. After evaporation, the residue was dissolved in hot water (5 ml) and extracted with ether (3×5 ml). The aqueous solution was passed down a reverse-phase silica column eluting with up to 15% methanol affording 9-(1-diethoxyphosphorylmethoxy-3-hydroxyprop-2-oxy)guanine (105 mg, 53%) m.p. 238°-240° C. νmax (KBr) 3380, 1700, 1600, 1380, 1380, 1240, 1030 and 960 cm-1 ; δH [(CD3)2SO] 1.24(6H, t, J7.2 Hz, 2×(CH2CH3 ), 3.61(2H, t, J5.2 Hz, CH2OH), 3.81(2H, d, J4.7 Hz, CH2OCH2P), 3.89(2H. d, J8.0 Hz,CH2P), 4.04 (4H, m, 2×CH2CH3, 4.39(1H, t, J4.7 Hz,CHON), 5.06(1H, t, J6.0 Hz, D2O exchangeable, OH), 6.61(2H, br.s, D2O exchangeable, NH2), 7.86(1H, s, H-8), 10.67(1H, br.s, D2O exchangeable, NH); m/z (FAB+veIon), 392(MH+, 2%), 414(MNa+, 100%). Found: C,39.27; H,5.60; N,17.78%; C13H22N5O7P.0.3H2O requires C,39.36; H,5.74; N,17.66%.

reactant | 9-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxy)-6-chloro-2-formamidopurine | 0.51 mmol, 280 mg | [Si](C)(C)(C(C)(C)C)OCC(COCP(=O)(OCC)OCC)ON1C2=NC(=NC(=C2N=C1)Cl)NC=O | C20H35ClN5O7PSi
reactant | formic acid | 5 ml | C(=O)O | CH2O2
product | 9-(1-diethoxyphosphorylmethoxy-3-hydroxyprop-2-oxy)guanine | 105 mg, 53% | C(C)OP(=O)(OCC)COCC(CO)ON1C=2N=C(NC(C2N=C1)=O)N | C13H22N5O7P
